US06638644B2
Synthesis of 4-(2-ethylhexyloxy)-bromobenzene (compound 1)
To a 1-L round-bottomed flask were added 4-bromophenol (60.0 g, 0.35 mol), potassium carbonate (52.7 g, 0.38 mol), 2-ethylhexyl bromide (73.7 g, 0.38 mol) and DMF 200 mL. The reaction mixture was stirred at 90° C. under nitrogen overnight. The reaction was poured into water and extracted with ether three times and the combined organic phase was washed with water three times and dried over MgSO4. After solvent was removed, the crude product was obtained as light brown liquid. Pure product was obtained by column chromatography on silica gel using ether/hexane (10/90) as an eluent to give 71.2 g of light yellow liquid at 72% yield. 1H NMR (CDCl3)δ (ppm): 0.88-0.93 (m, 6 H, CH3), 1.27-1.46 (m, 8 H), 1.65-1.74 (m, 1 H), 3.78 (d, J=5.7 Hz, 2 H, OCH2), 6.76 (d, J=8.9 Hz, 2 H), 7.33 (d, J=8.9 Hz, 2 H). 13C NMR (CDCl3): 11.08, 14.08, 23.03, 23.80, 29.05, 30.46, 39.29, 70.72, 112.42, 116.29, 132.11, 158.47. FD-MS: m/z 285 (M+).

reactant | 4-bromophenol | 0.35 mol, 60.0 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | potassium carbonate | 0.38 mol, 52.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-ethylhexyl bromide | 0.38 mol, 73.7 g | C(C)C(CBr)CCCC | C8H17Br
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | ether hexane | CCOCC.CCCCCC
solvent | water | O | H2O
product | 4-(2-ethylhexyloxy)-bromobenzene | 72% yield | C(C)C(COC1=CC=C(C=C1)Br)CCCC | C14H21BrO
